US09233977B2
Step 6: 3-(Methylsulfanyl)-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one (Example 1)
To a solution of tert-butyl 3-(methylsulfanyl)-4-oxo-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridine-5(4H)-carboxylate (20 mg, 0.055 mmol) in CH2Cl2 (274 μL) at 0° C. was added TFA (274 μL). The solution was stirred at 0° C. for 15 min. The resulting mixture was quenched with saturated aq. NaHCO3 and extracted with CH2Cl2. The combined extracts were dried (Na2SO4) and concentrated. Purification by silica gel chromatography (gradient elution, 0-10% MeOH/dichloromethane) afforded the title compound. 1H NMR (400 MHz, ppm, CDCl3) δ 11.66 (s, 1 H); 8.05 (s, 1 H); 7.77 (d, J=2.6 Hz, 1 H); 6.53 (d, J=2.6 Hz, 1 H); 3.58 (t, J=6.5 Hz, 2 H); 3.07 (t, J=6.5 Hz, 2 H); 2.64 (s, 3 H). HRMS (ES+) m/z 266.0414 [(M+H)+; calcd for C11H11N3OS2: 266.0416].

reactant | tert-butyl 3-(methylsulfanyl)-4-oxo-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridine-5(4H)-carboxylate | 0.055 mmol, 20 mg | CSC=1SC(=C2C1C(N(CC2)C(=O)OC(C)(C)C)=O)C2=NNC=C2 | C16H19N3O3S2
reactant | TFA | 274 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 274 μL | C(Cl)Cl | CH2Cl2
product | 3-(Methylsulfanyl)-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one | CSC=1SC(=C2C1C(NCC2)=O)C2=NNC=C2 | C11H11N3OS2
